US08133998B2
To a solution of 5-methyl-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-6-carboxylic acid, (2 g, 9.5 mmol) in DMF (20 mL) was added DIEA (5 mL, 28.5 mmol), 1-(3-chlorophenyl)piperazine hydrochloride (2.2 g, 9.5 mmol), and HATU (4.7 g, 12.3 mmol). The reaction mixture was stirred at RT overnight. The reaction mixture was diluted with EtOAc (60 mL) and the organic layer was washed successively with sat. NaHCO3 aq. (50 mL) and brine (50 mL). The organic layer was separated, dried over Na2SO4, and concentrated to give crude product as a gummy solid. Purification by flash column chromatography using EtOAc as the eluent afforded the 3 g of pure 6-(4-(3-chlorophenyl)piperazine-1-carbonyl)-5-methylthieno[2,3-d]pyrimidin-4(3H)-one, (yield: 81%).

reactant | 5-methyl-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-6-carboxylic acid | 9.5 mmol, 2 g | CC1=C(SC=2N=CNC(C21)=O)C(=O)O | C8H6N2O3S
reactant | DIEA | 28.5 mmol, 5 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-(3-chlorophenyl)piperazine hydrochloride | 9.5 mmol, 2.2 g | Cl.ClC=1C=C(C=CC1)N1CCNCC1
reactant | HATU | 12.3 mmol, 4.7 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 60 mL | CCOC(=O)C | C4H8O2
product | 6-(4-(3-chlorophenyl)piperazine-1-carbonyl)-5-methylthieno[2,3-d]pyrimidin-4(3H)-one | 3 g, yield: 81% | ClC=1C=C(C=CC1)N1CCN(CC1)C(=O)C1=C(C2=C(N=CNC2=O)S1)C | C18H17ClN4O2S
